US07633220B2
Preparation of 2,7-dibromo-9,9-diallyl-fluorene
2,7-dibromofluorene (5 g, 15.4 mmol) was combined with allyl bromide (5.6 g, 46.2 mmol) and reacted with toluene, NaOH and Bu4NBr as above for 2,7-dibromo-9,9-dihex-5-enyl-fluorene. 7.1 g of a yellow solid was obtained.

reactant | 2,7-dibromofluorene | 15.4 mmol, 5 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | allyl bromide | 46.2 mmol, 5.6 g | C(C=C)Br | C3H5Br
reactant | NaOH | [OH-].[Na+]
reactant | 2,7-dibromo-9,9-dihex-5-enyl-fluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCC=C)CCCCC=C | C25H28Br2
catalyst | Bu4NBr | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,7-dibromo-9,9-diallyl-fluorene | 7.1 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CC=C)CC=C | C19H16Br2
